US06313116B1
2-Cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid 4-nitrophenyl ester
Starting from 2-cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid (270 mg), p-nitrophenol (165 mg), and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (228 mg) in dichloromethane (35 ml). Trituration ofthe residue with diethyl ether yielded the title compound as a bright yellow solid (290 mg). TLC Rf 0.60 (ethyl acetate).

reactant | 2-cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid | 270 mg | C1(CC1)C=1SC2=C(N1)C(=CC=C2C(=O)O)OC | C12H11NO3S
reactant | p-nitrophenol | 165 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 228 mg | Cl.CN(CCCN=C=NCC)C
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 2-Cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid 4-nitrophenyl ester | 290 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(SC21)C2CC2)OC | C18H14N2O5S
